US09029402B2
To a solution of A-7 (4-(2-(4-methoxyphenyl)acetyl)-3-methylbenzonitrile) (19 g, 71.6 mmol) in anhydrous tetrahydrofuran (200 mL) was added dropwise lithium hexamethyldisilazide (LiHMDS) (86 mL, 1 mol/L in THF) at −78° C. under nitrogen, and the reaction mixture was stirred at −78° C. for 30 min. A solution of 3-bromo-propene (10.4 g, 86 mmol) in anhydrous tetrahydrofuran (70 mL) was added dropwise into the mixture, and the resulting mixture was warmed to room temperature and stirred overnight. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution (200 mL), and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine (200 mL), dried over anhydrous sodium sulfate (10 g), evaporated, and purified on silica gel column (petroleum ether/ethyl acetate=25:1) to give A-8 (4-(2-(4-methoxyphenyl)pent-4-enoyl)-3-methylbenzonitrile) (7.7 g, yield 35.2%) as an oil. 1H NMR (CDCl3 400 MHZ): δ 7.36 (m, 3H), 7.01 (d, J=8.4 Hz, 2H), 6.74 (d, J=8.4 Hz, 2H), 5.72-5.62 (m, 1H), 5.04-4.93 (m, 2H), 4.20-4.17 (m, 1H), 3.69 (s, 3H), 2.92-2.85 (m, 1H), 2.52-2.40 (m, 1H), 2.16 (s, 3H).

reactant | 4-(2-(4-methoxyphenyl)acetyl)-3-methylbenzonitrile | COC1=CC=C(C=C1)CC(=O)C1=C(C=C(C#N)C=C1)C | C17H15NO2
reactant | lithium hexamethyldisilazide | 1 mol/L, 86 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-bromo-propene | 86 mmol, 10.4 g | BrCC=C | C3H5Br
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-(2-(4-methoxyphenyl)pent-4-enoyl)-3-methylbenzonitrile | yield 35.2% | COC1=CC=C(C=C1)C(C(=O)C1=C(C=C(C#N)C=C1)C)CC=C | C20H19NO2
